US06518273B1
(2S)-1-Methyl-2-(phenylmethyl)piperazine
Lithium aluminium hydride (1.0M in ether, 20.2 mL, 20.2 mmol) was added to a stirred, cooled (0° C.) suspension of (6S)-1-methyl-6-(phenylmethyl)-2,5-piperazinedione (Description 34, 1.1 g, 5.0 mmol) in THF (60 mL) and the mixture was heated under reflux for 1 h. The mixture was cooled to −20° C. and saturated aqueous sodium sulfate (20.2 mL) was added. The mixture was stirred at room temperature for 15 min., filtered and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2C2/MeOH/NH3(aq.) (90:10:1), to give the title compound as a yellow oil (0.83 g, 87%). 1H NMR (250 MHz, CDCl3) δ7.31-7.15 (5H, m), 3.17 (1H, dd, J 13.3, 3.9 Hz), 2.92-2.70 (4H, m), 2.46 (2H, m), 2.43 (3H, s), 2.27 (2H, m) and 1.51 (1H, br s). m/z (ES+) 191 (M+1).

reactant | Lithium aluminium hydride | 20.2 mmol, 1.0M, 20.2 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (6S)-1-methyl-6-(phenylmethyl)-2,5-piperazinedione | 5.0 mmol, 1.1 g | CN1C(CNC([C@@H]1CC1=CC=CC=C1)=O)=O | C12H14N2O2
reactant | sodium sulfate | 20.2 mL | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (2S)-1-Methyl-2-(phenylmethyl)piperazine | 0.83 g, 87% | CN1[C@H](CNCC1)CC1=CC=CC=C1 | C12H18N2
